US05610293
A. Synthesis of 1,4,7-Tris(p-toluenesulfonyl)-1,4,7-triazaheptane
This compound was synthesized following the procedure of Atkins, T. J.; Richman, J. E.; and Oettle, W. F.; Org. Synth., 58, 86-98 (1978). To a stirred solution of p-toluenesulfonyl chloride (618 g, 3.24 mole) in pyridine (1500 ml) at 0° C. was added a solution of 1,4,7-triazaheptane (95.5 g, 0.926 mole) in pyridine (150 ml) under a dry argon atmosphere, maintaining the temperature ≤50° C. The addition required 30 minutes. After the mixture was allowed to cool to room temperature slowly while stirring for 3 h, H2O (2 l) was slowly added to the cooled (ice bath) mixture. The heavy white precipitate which formed was filtered and washed-thoroughly with H2O. The pale yellow solid was dissolved in DMF (3 l) and 0.1N HCl (4 l) was slowly added at 5° C. The slurry was filtered and the pale yellow solid was washed thoroughly with H2O and dried in vacuo to give 486 g (93% yield) of the product: mp 180°-1° C.; 1H NMR(DMSO-d6) δ2.39 (s,3 H), 2.40 (s, 6 H), 2.84 (m, 4 H), 3.04 (t, J=6.9 Hz, 4 H) 7.40 (d, J=8.1 Hz, 4 H), 7.59 (d, J=8.3 Hz, 2 H), 7.67 (m, 6 H).

reactant | p-toluenesulfonyl chloride | 3.24 mole, 618 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1,4,7-triazaheptane | 0.926 mole, 95.5 g | NCCNCCN | C4H13N3
reactant | H2O | 2 l | O | H2O
solvent | pyridine | 1500 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 1,4,7-Tris(p-toluenesulfonyl)-1,4,7-triazaheptane | 486 g, 93% yield | C1(=CC=C(C=C1)S(=O)(=O)NCCN(CCNS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C25H31N3O6S3
